US05281595
A stirred solution of 3,4-methylenedioxyphenol (6.0 g, 43.5 mmol), ethyl vinyl ether (3.75 g, 52.0 mmol) and a catalytic amount of trichloroacetic acid (50 mg, 0.3 mmol) in chloroform (50 ml) was stirred for two hours at room temperature. Aqueous NaOH (2N, 50 ml) was added and the resulting mixture was extracted with diethyl ether (3 times). The combined ether extracts were washed with aqueous NaOH (2N) and water, respectively, dried over Na2SO4, filtered and evaporated in vacuo to yield 5-(1-ethoxyethoxy)-1,3-benzodioxole (8.96 g, 98% yield; compound No. 1) as an oil.

reactant | 3,4-methylenedioxyphenol | 43.5 mmol, 6.0 g | C1OC=2C=C(C=CC2O1)O | C7H6O3
reactant | ethyl vinyl ether | 52.0 mmol, 3.75 g | C(=C)OCC | C4H8O
reactant | trichloroacetic acid | 0.3 mmol, 50 mg | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-ethoxyethoxy)-1,3-benzodioxole | 98% yield | C(C)OC(C)OC1=CC2=C(OCO2)C=C1 | C11H14O4
